US07547702B2
2-(4-Bromo-phenyl)-7-chloro-3H-quinazolin-4-one (38.7 mmol) is added to 50 ml thionylchloride and is heated at 40°. The mixture is treated with 6 ml dimethylformamide (DMF). After cooling to rt the mixture is stirred for 3 hrs. Customary working up gives 2-(4-bromo-phenyl)-4,7-dichloroquinazoline as a solid; m.p. 189-190°.

reactant | 2-(4-Bromo-phenyl)-7-chloro-3H-quinazolin-4-one | 38.7 mmol | BrC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(N1)=O)Cl | C14H8BrClN2O
reactant | thionylchloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromo-phenyl)-4,7-dichloroquinazoline | BrC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)Cl)Cl | C14H7BrCl2N2
